US08957070B2
N-[2-(4,5-Dihydro-1,3-thiazol-2-yl)-5-methyl-1H-indol-7-yl]thiophene-2-sulfonamide
A mixture of triphenylphosphine oxide (2.6 g), trifluoromethanesulfonic anhydride (0.80 mL) and dichloromethane (25 mL) was stirred for 15 min under ice-cooling. 5-Methyl-7-[(2-thienylsulfonyl)amino]-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide (1.0 g) was added, and the mixture was stirred for 2 hr under ice-cooling. The reaction mixture was poured into aqueous sodium hydrogencarbonate solution and extracted with dichloromethane. The aqueous layer was extracted with dichloromethane, and the combined dichloromethane layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=3:7-5:5), and the obtained crystals were recrystallized from ethyl acetate-hexane to give the title compound (528 mg, yield 89%) as colorless prism crystals. melting point 202-203° C.

reactant | triphenylphosphine oxide | 2.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.80 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 5-Methyl-7-[(2-thienylsulfonyl)amino]-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide | 1.0 g | CC=1C=C2C=C(NC2=C(C1)NS(=O)(=O)C=1SC=CC1)C(=O)NCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H31N3O3S3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-[2-(4,5-Dihydro-1,3-thiazol-2-yl)-5-methyl-1H-indol-7-yl]thiophene-2-sulfonamide | 528 mg, yield 89% | S1C(=NCC1)C=1NC2=C(C=C(C=C2C1)C)NS(=O)(=O)C=1SC=CC1 | C16H15N3O2S3
